US05876756
(S,S)-4-{2-Benzyloxycarbonylamino-3-(4-methoxyphenyl)-propionyl}-3-(4-t-butoxycarbonylaminobutyl)-2-oxopiperazine-1-acetic acid t-butyl ester
In substantially the same manner as in Reference Example 2, the title compound was synthesized using (S)-3-(4-t-butoxycarbonylaminobutyl)-2-oxopiperazine-1-acetic acid t-butyl ester oxalate and N-Z-Tyr(OMe)-OH.

reactant | (S)-3-(4-t-butoxycarbonylaminobutyl)-2-oxopiperazine-1-acetic acid t-butyl ester oxalate | C(C(=O)O)(=O)O.C(C)(C)(C)OC(CN1C([C@@H](NCC1)CCCCNC(=O)OC(C)(C)C)=O)=O
reactant | N-Z-Tyr(OMe)-OH | N([C@@H](CC1=CC=C(C=C1)OC)C(=O)O)C(=O)OCC1=CC=CC=C1 | C18H19NO5
product | (S,S)-4-{2-Benzyloxycarbonylamino-3-(4-methoxyphenyl)-propionyl}-3-(4-t-butoxycarbonylaminobutyl)-2-oxopiperazine-1-acetic acid t-butyl ester | C(C)(C)(C)OC(CN1C([C@@H](N(CC1)C([C@H](CC1=CC=C(C=C1)OC)NC(=O)OCC1=CC=CC=C1)=O)CCCCNC(=O)OC(C)(C)C)=O)=O | C37H52N4O9
